US04251539
3-tert.-Butyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole
This compound is prepared by the method described for Example VI, from 3.8 g of 55% strength sodium hydride (0.086 mole), 21 g (0.086 mole) of 3-tert.-butyl-5-(2-hydroxystyryl)-isoxazole and 11.8 g (0.086 mole) of epibromohydrin. 25.0 g (97% of theory) of a colorless oil.

reactant | sodium hydride | 0.086 mole | [H-].[Na+]
reactant | 3-tert.-butyl-5-(2-hydroxystyryl)-isoxazole | 0.086 mole, 21 g | C(C)(C)(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)O | C15H17NO2
reactant | epibromohydrin | 0.086 mole, 11.8 g | C(Br)C1CO1 | C3H5BrO
product | 3-tert.-Butyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole | C(C)(C)(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)OCC1CO1 | C18H21NO3
